US05696299
Interesterification was carried out by using 5 g of Lipase P of Pseudomonas fluorescens origin (a product of Amano Pharmaceutical Co., Ltd.), 10 g of (R,S)-1-2-(bromophenyl)ethanol, 30 g of tribehen and 450 ml of cyclohexane at 50° C. for 72 hours in the same manner as in Example 8. The water content of the reaction system was 0.01% by weight, and 90% of the lipase particles had a particle size of 30 to 50 μm. Gas chromatography of the reaction mixture revealed that 48 mol % of (R,S)-1-(2-bromophenyl)ethanol had been converted to 1-(2-bromophenyl)ethyl behenate. The reaction mixture was treated in the same manner as in Example 8, and the residue was subjected to simple distillation at 110° C. and 5 mmHg to recover unreacted (S)-(-)-1-(2-bromophenyl)ethanol (yield: 82%; chemical purity: 99.9%; optical purity: 98% ee).

reactant | cyclohexane | 450 ml | C1CCCCC1 | C6H12
reactant | 1-(2-bromophenyl)ethyl behenate | C(CCCCCCCCCCCCCCCCCCCCC)(=O)OC(C)C1=C(C=CC=C1)Br | C30H51BrO2
solvent | water | O | H2O
product | (S)-(-)-1-(2-bromophenyl)ethanol | yield: 82% | BrC1=C(C=CC=C1)[C@H](C)O | C8H9BrO
